US06544985B2
{4-Chloro-2-[3-(2-cyano-pyridin-4-yl)-3-oxo-propionylamino]-5-dimethylamino-phenyl}-carbamic acid tert.-butyl ester
The title compound was prepared from (2-amino-4-chloro-5-dimethylamino-phenyl)-carbamic acid tert.-butyl ester (Example J1) (143 mg, 0.5 mmol) and 3-(2-cyano-pyridin-4-yl)-3-oxo-propionic acid tert.-butyl ester (Example K3) (123 mg, 0.5 mmol) according to the general procedure M. Obtained as a yellow solid (155 mg).

reactant | (2-amino-4-chloro-5-dimethylamino-phenyl)-carbamic acid tert.-butyl ester | 0.5 mmol, 143 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)C)Cl)N)=O | C13H20ClN3O2
reactant | 3-(2-cyano-pyridin-4-yl)-3-oxo-propionic acid tert.-butyl ester | 0.5 mmol, 123 mg | C(C)(C)(C)OC(CC(=O)C1=CC(=NC=C1)C#N)=O | C13H14N2O3
product | {4-Chloro-2-[3-(2-cyano-pyridin-4-yl)-3-oxo-propionylamino]-5-dimethylamino-phenyl}-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)C)Cl)NC(CC(=O)C1=CC(=NC=C1)C#N)=O)=O | C22H24ClN5O4
